US07687493B2
reaction of 1-[bis(4-chlorophenyl)methyl]azetidin-3-ol hydrobromide with N-quinolin-6-ylmethanesulfonamide in the presence of DIAD and triphenylphosphine in toluene, to form N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-quinol-6-yl-methylsulfonamide (the reaction is preferably performed at a temperature of between 40 and 60° C.), and then

reactant | 1-[bis(4-chlorophenyl)methyl]azetidin-3-ol hydrobromide | Br.ClC1=CC=C(C=C1)C(N1CC(C1)O)C1=CC=C(C=C1)Cl
reactant | N-quinolin-6-ylmethanesulfonamide | N1=CC=CC2=CC(=CC=C12)NS(=O)(=O)C | C10H10N2O2S
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-quinol-6-yl-methylsulfonamide | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)(=O)C)C=1C=C2C=CC=NC2=CC1)C1=CC=C(C=C1)Cl | C26H23Cl2N3O2S
